US06002008
N-{4-[(3-Chlorophenyl)amino]-3-cyano-6-quinolinyl}-2-propenamide
Dissolved 430 mg (1.46 mmol) 6-amino-4-[(3-chlorophenyl)amino]-3-quinolinecarbonitrile in 4 ml DMF, added 10 ml THF and chilled to 0° C. under N2. Added 224 μl (1.60 mmol) triethylamine and 133 μl (1.60 mmol) acryloyl chloride. Removed ice bath at 15 minutes, reaction complete at this time, but stirred overnight at 25° C. Stripped solvent, added a dilute sodium bicarbonate to the residue and collected solids. Washed with water and dried in vacuo. Boiled in ethyl acetate, collected solids and dried in vacuo, giving 200 mg of orange solid: mass spectrum (electrospray m/e): M+H=349.0, 351.0.

reactant | 6-amino-4-[(3-chlorophenyl)amino]-3-quinolinecarbonitrile | 1.46 mmol, 430 mg | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)Cl | C16H11ClN4
reactant | triethylamine | 1.60 mmol, 224 μl | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 1.60 mmol, 133 μl | C(C=C)(=O)Cl | C3H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-{4-[(3-Chlorophenyl)amino]-3-cyano-6-quinolinyl}-2-propenamide | 200 mg | ClC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)NC(C=C)=O)C#N | C19H13ClN4O
